* netlist auto-generated by asc_to_net.py from flyback_converter.asc (scratch case-c verification, Vin=5V D=0.7059 R=28.8ohm, not committed)
V1 N001 0 5
S1 N001 N002 ctrl 0 SW
L1 N002 0 700u
L2 0 N003 700u
D1 N003 N004 DMOD
C1 N004 0 500u
R1 N004 0 28.8
V2 ctrl 0 PULSE(0 10 0 10n 10n {Tsw*D} {Tsw})
K1 L1 L2 1
.model SW SW(Ron=1m Roff=1G Vt=0.01)
.model DMOD D(Is=1e-9 N=1.0 Rs=0.001)
.param fsw=20k
.param Tsw=1/fsw
.param D=0.7059
.tran 2u 100m 95m
.end
